US07074798B2
b) 7-(2-Butynyl)-1,3-dimethyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione
4-[7-(2-Butynyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (2.5 g) was dissolved in trifluoroacetic acid (15 ml), and the solution was stirred at room temperature for 30 minutes. After removing the solvent by distillation at reduced pressure, the residue was purified by column chromatography using NH-silica gel (silica gel, which surface was treated with amino group: NH-DM2035 manufactured by Fuji Silysia Chemical Ltd.) to obtain 1.6 g of the title compound from a fraction eluted with ethyl acetate.

reactant | 4-[7-(2-Butynyl)-1,3-dimethyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 2.5 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1CC#CC)=O)C)=O)C | C20H28N6O4
solvent | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(2-Butynyl)-1,3-dimethyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione | 1.6 g | C(C#CC)N1C(=NC=2N(C(N(C(C12)=O)C)=O)C)N1CCNCC1 | C15H20N6O2
